US07056917B2
(E) (E)-3-(2-{3-[(Aminocarbonyl)oxy]piperidino}-8-{[(4-cyclobutyl-1,3-thiazol-2-yl)-amino]carbonyl}-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl)-2-propenoic acid
tert-Butyl (E)-3-(2-{3-[(aminocarbonyl)oxy]piperidino}-8-{[(4-cyclobutyl-1,3-thiazol-2-yl)amino]carbonyl}-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl)-2-propenoate (20 mg, 0.034 mmol) was added with a mixed solution of 4 N hydrochloric acid and dioxane (1.5 ml) at room temperature and stirred for 2 hours. The reaction solution was concentrated under reduced pressure, and the resulting residue was purified by thin layer silica gel chromatography (chloroform:methanol=10:1) to obtain 9 mg (58% for the two steps) of the title compound as yellow crystals.

reactant | tert-Butyl (E)-3-(2-{3-[(aminocarbonyl)oxy]piperidino}-8-{[(4-cyclobutyl-1,3-thiazol-2-yl)amino]carbonyl}-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl)-2-propenoate | 0.034 mmol, 20 mg | NC(=O)OC1CN(CCC1)C=1N=C2N(C(C1/C=C/C(=O)OC(C)(C)C)=O)C=CC(=C2)C(=O)NC=2SC=C(N2)C2CCC2 | C29H34N6O6S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | (E)-3-(2-{3-[(Aminocarbonyl)oxy]piperidino}-8-{[(4-cyclobutyl-1,3-thiazol-2-yl)-amino]carbonyl}-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl)-2-propenoic acid | NC(=O)OC1CN(CCC1)C=1N=C2N(C(C1/C=C/C(=O)O)=O)C=CC(=C2)C(=O)NC=2SC=C(N2)C2CCC2 | C25H26N6O6S
